US08791255B2
The product is prepared according to the procedure described in example 5, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 178 mg of 1-benzofuran-4-amine, and 300 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 2 ml of pyridine and 3 ml of N,N-dimethylformamide. 275 mg of 2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-phenylacetamide are obtained in the form of an off-white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 1-benzofuran-4-amine | 178 mg | O1C=CC=2C1=CC=CC2N | C8H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 300 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-phenylacetamide | 275 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)NC1=CC=CC=C1 | C17H20N4O3
